### ISSUE TITLE
[`NumberTheory/Complex`] `re`/`im`/`star` are algebraic

### ISSUE THREAD

**Issue by SnirBroshi** [SnirBroshi/mathlib4#23]
```lean
import Mathlib
namespace Complex
variable {R : Type*} [CommRing R] [Algebra R ℝ] (z : ℂ)

theorem isAlgebraic_star (h : IsAlgebraic R z) : IsAlgebraic R (Star.star z) := by
  sorry

theorem isAlgebraic_re (h : IsAlgebraic R z) : IsAlgebraic R (z.re) := by
  sorry

theorem isAlgebraic_im (h : IsAlgebraic R z) : IsAlgebraic R (z.im) := by
  sorry
```
